US08110688B2
Synthesis of 1-(1-ethoxyethoxy)-3-methoxybenzene
2600 mL of tetrahydrofuran and 650.4 g (5.24 mol) of 3-methoxyphenol were added to a 15 L four-necked round bottom flask under a nitrogen atmosphere. Subsequently 65.8 g (0.26 mol) of pyridinium p-toluenesulfonate was added to this tetrahydrofuran solution and stirring was started. This mixture was cooled in a temperature-controlled bath set to 8° C. and 760.1 g (10.54 mol) of ethyl vinyl ether was added dropwise to the reaction mixture for about 1.5 hours. The reaction mixture was stirred at the same temperature for 2.7 hours and then the temperature of the temperature-controlled bath was set to 15° C. It was further stirred for about 2 hours from a time point when the inner temperature exceeded 14° C. The temperature of the temperature-controlled bath was set to 8° C., and at a time point when the inner temperature reached almost 10° C., 715.2 g of 8% sodium hydrogen carbonate aqueous solution [prepared by dissolving 57.2 g of sodium hydrogen carbonate in 658 mL of water] was added dropwise to the reaction mixture over 10 minutes. The reaction mixture was transferred to a 20 L separatory funnel and added with 1040 mL of water and added and extracted with 4550 mL of toluene and the organic layer was washed with 1300 mL and 650 mL of water twice. The obtained organic layer was concentrated in vacuo at a bath temperature of 40° C. and a pale yellow oil containing the title compound was obtained.

reactant | 3-methoxyphenol | 5.24 mol, 650.4 g | COC=1C=C(C=CC1)O | C7H8O2
reactant | pyridinium p-toluenesulfonate | 0.26 mol, 65.8 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | ethyl vinyl ether | 10.54 mol, 760.1 g | C(=C)OCC | C4H8O
reactant | sodium hydrogen carbonate | 658 mL, 715.2 g | C(O)([O-])=O.[Na+]
solvent | water | 1040 mL | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2600 mL | O1CCCC1 | C4H8O
product | 1-(1-ethoxyethoxy)-3-methoxybenzene | C(C)OC(C)OC1=CC(=CC=C1)OC | C11H16O3
